### PR TITLE
The ring of integers `v.adicCompletionIntegers K` is compact if it has finite residue field

### LINKED ISSUE #451: The integers of the completion of a number field at a finite place, are compact
It is true more generally that if I have a complete discretely-valued field with finite residue field then the integer ring is compact, and I know that people like @pechersky were thinking about this. The previous issue (the previous sorry in the file) shows that the residue field is finite, so that's mathematically all you need. One high-falutin' approach is to show that the integer ring is now profinite, i.e. a projective limit of finite groups, but there are probably other approaches. @smmercuri do you already have this in your repo somewhere? I assume that given you proved that the adeles were locally compact you must have this compactness statement somewhere.

### PR DESCRIPTION
**Pull request by smmercuri**
Closes #451

### CODE REVIEW

**Comment by pechersky** [comment]
Nice! I hope we can push the generalizations to mathlib too. Thanks for using my results =)

File: FLT/DedekindDomain/AdicValuation.lean [hunk 1]
```diff
@@ -383,4 +388,106 @@ theorem denseRange_of_prodAlgebraMap {ι : Type*} [Fintype ι]
...
+      WithZero.coe_inv, WithZero.coe_unzero, inv_mul_cancel₀ hx']
+  let a : v.adicCompletionIntegers K := ⟨π ^ (-m) * x.val, le_of_eq hpow⟩
+  refine ⟨m.toNat, (ValuationSubring.isUnit_of_valued_eq_one a hpow).unit, Subtype.ext ?_⟩
+  simp only [zpow_neg, IsUnit.unit_spec, MulMemClass.coe_mul, SubmonoidClass.coe_pow, a,
+    ← zpow_natCast, m.toNat_of_nonneg hm₀, ← mul_assoc]
+  rw [mul_inv_cancel₀ (zpow_ne_zero _ <| (by simp [uniformizer_ne_zero hπ])), one_mul]
+
+open scoped algebraMap in
+theorem maximalIdeal_eq_span_uniformizer {π : v.adicCompletionIntegers K}
+    (hπ : Valued.v π.1 = Multiplicative.ofAdd (-1 : ℤ)):
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:438]:
```suggestion
    (hπ : Valued.v π.1 = Multiplicative.ofAdd (-1 : ℤ)) :
```

**Comment by kbuzzard** [comment]
Thanks!
